US07632837B2
56D. Preparation of 6-bromo-7-(4-chlorophenyl)-3-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridine
To a suspension of N′-(5-bromo-4-(4-chlorophenyl)pyridin-2-yl)-2-(6-(trifluoromethyl)pyridin-3-yl)acetohydrazide (24 mg, 0.05 mmol) in (trifluoromethyl)benzene (0.45 mL) was added glacial acidic acid (0.15 mL). The reaction mixture was sealed and heated in a microwave reactor at 200° C. for 30 min. The reaction mixture was allowed to cool to 20° C. and concentrated in vacuo. The residue was purified using reverse phase preparative HPLC (Conditions: Phemomenex Luna 5μC18 30×75 mm; Eluted with 0% to 100% B, 10 min gradient, 100% B hold for 2 min, (A=90% H2O, 10% CH3CN, 0.1% trifluoroacetic acid and B=10% H2O, 90% CH3CN, 0.1% trifluoroacetic acid); Flow rate at 40 mL/min, UV detection at 220 nm) to afford 21 mg (90%) of the title compound as a white solid. LC/MS (method B): retention time=1.86 min, [M+H]+=467.0.

reactant | N′-(5-bromo-4-(4-chlorophenyl)pyridin-2-yl)-2-(6-(trifluoromethyl)pyridin-3-yl)acetohydrazide | 0.05 mmol, 24 mg | BrC=1C(=CC(=NC1)NNC(CC=1C=NC(=CC1)C(F)(F)F)=O)C1=CC=C(C=C1)Cl | C19H13BrClF3N4O
solvent | (trifluoromethyl)benzene | 0.45 mL | FC(F)(F)C1=CC=CC=C1 | C7H5F3
product | 6-bromo-7-(4-chlorophenyl)-3-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridine | 21 mg, 90% | BrC=1C(=CC=2N(C1)C(=NN2)CC=2C=NC(=CC2)C(F)(F)F)C2=CC=C(C=C2)Cl | C19H11BrClF3N4
